US05886014
5-[4-(5-Methoxy-1-methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (Compound No. 1-146)
A mixture of 1.17 g of 4-methoxy-N-methyl-1,2-phenylenediamine (prepared as described in Preparation 25), 3.0 g of 5-(4-methoxycarbonylmethoxybenzyl)thiazolidine-2,4-dione (prepared as described in Preparation 21), 20 ml of 1,4-dioxane and 60 ml of concentrated hydrochloric acid was heated under reflux for 2 days. At the end of this time, the reaction mixture was poured into ice-water and the resulting mixture was neutralized with sodium hydrogencarbonate, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, after which the residue was purified by column chromatography through silica gel, using a solution of methylene chloride containing 3% by volume ethanol as the eluent, to give 0.3 g of the title compound, melting at 209°-210° C. and having an Rf value=0.56 (on thin layer chromatography on silica gel; developing solvent: methylene chloride containing 5% by volume ethanol).

reactant | 4-methoxy-N-methyl-1,2-phenylenediamine | 1.17 g | COC1=CC(=C(C=C1)NC)N | C8H12N2O
reactant | 5-(4-methoxycarbonylmethoxybenzyl)thiazolidine-2,4-dione | 3.0 g | COC(=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C13H13NO5S
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 5-[4-(5-Methoxy-1-methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 0.3 g | COC1=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C=C1 | C20H19N3O4S
